US06248766B1
To a solution of 1-bromo-3-fluorobenzene (10.0 g, 57.1 mmol) in tetrahydrofuran (100 mL) was added n-BuLi (1.6M, 35.7 mL, 62.8 mmol) at −78° C. and the mixture was stirred at that temperature for 20 minutes. To the mixture was added 3-fluorobenzaldehyde (7.80 g, 62.8 mmol) and the resulting mixture was stirred at room temperature for 30 minutes. To this mixture was added water and the product was extracted with ethyl acetate. The extract was washed with water, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure to provide 10.1 g of bis(3-fluorophenyl)methanol. To a solution of this compound (6.60 g, 30.0 mmol) in diisopropylether (50 mL) was added phosphorus tribromide (5.41 g, 20.0 mmol) with ice-cooling and the mixture was stirred at that temperature for 1 hour. This reaction mixture was diluted with water and extracted with diisopropylether. The organic layer was washed with water and saturated with aqueous sodium hydrogen carbonate solution, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure to provide 5.61 g of the title compound. Yield 53%. Oil.

reactant | 1-bromo-3-fluorobenzene | 57.1 mmol, 10.0 g | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | n-BuLi | 62.8 mmol, 1.6M, 35.7 mL | [Li]CCCC
reactant | 3-fluorobenzaldehyde | 62.8 mmol, 7.80 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | bis(3-fluorophenyl)methanol | 10.1 g | FC=1C=C(C=CC1)C(O)C1=CC(=CC=C1)F | C13H10F2O
